US07964732B2
Step CA7A: 2-(6-bromo-2-naphthyl)-1,1,1-trifluoropropan-2-ol
To a DMF (25 ml) solution of 1-(6-bromo-2-naphthyl)ethanone (2.5 g, 10.0 mmol, Tetrahedron Letters (2001), 42(2), 265-266), trifluoromethyltrimethylsilane (2.14 g, 15.1 mmol) and lithium acetate (33.1 mg, 0.5 mmol) were added and the mixture was stirred for 12 hrs at room temperature. Then, the reaction was partitioned with sodium acetate aqueous solution and ethylacetate. The organic layer was dried over sodium sulfate and filtered. Then, evaporation gave the crude residue which was treated with hydrogen chloride and methanol with stirring for 5 hrs. Then, evaporation gave the crude residue which was purified through silica gel column chromatography, eluting with hexane:ethyl acetate (5:1), to give the title compound as colorless oil in 83% yield. 1H NMR (300 MHz, CDCl3) 2.50 (1H, s), 7.58 (1H, d, J=8.8 Hz), 771-7.81 (3H, m), 8.04 (2H, d, J=8.9 Hz).

reactant | 1-(6-bromo-2-naphthyl)ethanone | 10.0 mmol, 2.5 g | BrC=1C=C2C=CC(=CC2=CC1)C(C)=O | C12H9BrO
reactant | trifluoromethyltrimethylsilane | 15.1 mmol, 2.14 g | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | lithium acetate | 0.5 mmol, 33.1 mg | C(C)(=O)[O-].[Li+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-(6-bromo-2-naphthyl)-1,1,1-trifluoropropan-2-ol | 83% yield | BrC=1C=C2C=CC(=CC2=CC1)C(C(F)(F)F)(C)O | C13H10BrF3O
